US08278442B2
Preparation 64: N-Methyl-2-(tetrahydropyran-4-yl)acetamide
To a solution of (tetrahydropyran-4-yl)acetic acid (500 mg, 3.47 mmol) in thionyl chloride (10 mL) was added DMF (1 drop). The reaction was heated to reflux for 1 h, cooled to rt and the solvent removed in vacuo. The residue was redissolved in THF (5 mL) and added dropwise to a solution of methylamine hydrochloride (2.34 g, 34.7 mmol) and NaOH (1.11 g, 27.7 mmol) in water. The solution was stirred for 30 min and EtOAc (100 mL) added. The mixture was extracted with EtOAc (5×100 mL) and the combined organic phase dried (MgSO4). Solvent was removed in vacuo to give the title compound: δH (CDCl3) 1.14-1.33 (2H, m), 1.48-1.63 (3H, m), 1.97-2.07 (2H, m), 2.74 (3H, s), 3.26-3.41 (2H, m), 3.87 (2H, dd), 5.34 (1H, bs).

reactant | (tetrahydropyran-4-yl)acetic acid | 3.47 mmol, 500 mg | O1CCC(CC1)CC(=O)O | C7H12O3
reactant | methylamine hydrochloride | 34.7 mmol, 2.34 g | Cl.CN
reactant | NaOH | 27.7 mmol, 1.11 g | [OH-].[Na+]
reactant | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | thionyl chloride | 10 mL | S(=O)(Cl)Cl | Cl2OS
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-Methyl-2-(tetrahydropyran-4-yl)acetamide | CNC(CC1CCOCC1)=O | C8H15NO2
